US04842775
In tetrahydrofuran (1.8 l) was dissolved methyl 10-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)decanoate (881 g, 2.5 mol.). To the solution was added a suspension of sodium borohydride (340 g, 9 mol.) in tetrahydrofuran (10.7 l), and the mixture was stirred. To the resulting suspension was added water (75 ml, 4.16 mol.). Aluminum chloride (400 g, 3 mol.) was dissolved in tetrahydrofuran (6.0 l). The solution was added dropwise to the above-mentioned suspension at a given rate in the course of 90 minutes, during which period the inner temperature of the reaction mixture was kept at 25±2° C. Then, the reaction mixture was stirred at the same temperature for further 30 minutes, which was then cooled to about 15° C. To the reaction mixture was added water (22 l) dropwise to cause decomposition, to which was then added dropwise hydrochloric acid (2.7 l). The mixture was subjected to extraction twice with 9 l each portion of toluene. Then, the toluene layers were combined and washed with a 5% aqueous solution of sodium hydrogen carbonate (4.4 l), followed by further washing with water (4.4 ). The toluene layer was concentrated under reduced pressure to obtain 10-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)decan-1-ol (805 g, 2.48 mol., yield 99.2%) as an oily product.

reactant | methyl 10-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)decanoate | 2.5 mol, 881 g | OC1=C(C(=CC(=C1OC)OC)C)CCCCCCCCCC(=O)OC | C20H32O5
reactant | sodium borohydride | 9 mol, 340 g | [BH4-].[Na+]
reactant | Aluminum chloride | 3 mol, 400 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 2.7 l | Cl | ClH
solvent | tetrahydrofuran | 1.8 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.7 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.0 l | O1CCCC1 | C4H8O
solvent | water | 22 l | O | H2O
solvent | water | 4.16 mol, 75 ml | O | H2O
product | 10-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)decan-1-ol | 2.48 mol, 805 g, yield 99.2% | OC1=C(C(=CC(=C1OC)OC)C)CCCCCCCCCCO | C19H32O4
